US06951875B2
a) [2-(3,4-Dihydro-naphthalen-2-yl)-pyridin-4-yl]-carbamic acid ethyl ester
A solution of 2-(3,4-dihydro-naphthalen-2-yl)-pyridin-4-yl-amine (0.80 g, 3.6 mmol) in pyridine (20 ml) was cooled to 0° C. and ethylchloroformate (0.47 g, 4.3 mmol) was slowly added. Stirring was continued for 72 hr. Then the solvent was evaporated and the residue was partitioned (AcOEt /H2O). The organic phase was dried (MgSO4), concentrated and chromatographed (SiO2 with CH2Cl2/CH3OH=98/2) to give the title compound (0.36 g, 36%) as a yellow oil. MS: m/e=294 (M+).

reactant | 2-(3,4-dihydro-naphthalen-2-yl)-pyridin-4-yl-amine | 3.6 mmol, 0.80 g | C1=C(CCC2=CC=CC=C12)C1=NC=CC(=C1)N | C15H14N2
reactant | ethylchloroformate | 4.3 mmol, 0.47 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | [2-(3,4-Dihydro-naphthalen-2-yl)-pyridin-4-yl]-carbamic acid ethyl ester | 0.36 g, 36% | C(C)OC(NC1=CC(=NC=C1)C1=CC2=CC=CC=C2CC1)=O | C18H18N2O2
